US06590118B1
A mixture of 4-bromomethylphthalic acid dimethyl ester (3.1 g, 10.8 mmol), 2-(tert-butoxycarbonylamino)phenylboronic acid (4.3 g, 18.1 mmol), tetrakis(triphenylphosphine)-palladium(0) (0.6 g), 2 M aqueous sodium carbonate (20 ml), and 1,2-dimethoxyethane (40 ml) was heated at 90° C. for 19 hours. The reaction mixture was cooled to room temperature and partioned between water (60 ml) and methylene chloride (60 ml). The organic phase was isolated, washed with water (2×50 ml), dried over magnesium sulphate, and evaporated to dryness in vacuo. The crude product was purified on silica gel (eluent: methylene chloride:ethyl acetate (95:5) to give 4-[2-(tert-butoxycarbonylamino)benzyl]phthalic acid dimethyl ester as yellow crystals (yield: 1.49 g, (40%)). 1H—NMR (CDCl3) in ppm: δ 7.70 (1H,d); 7.67 (1H,d); 7.47 (1H,d); 7.22-7.33 (2H,m); 7.10 (2H,d); 6.05 (1H,s); 4.03 (2H,s); 3.9 (6H,2xs); 1.47 (9H,s).

reactant | 4-bromomethylphthalic acid dimethyl ester | 10.8 mmol, 3.1 g | COC(C=1C(C(=O)OC)=CC(=CC1)CBr)=O | C11H11BrO4
reactant | 2-(tert-butoxycarbonylamino)phenylboronic acid | 18.1 mmol, 4.3 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)B(O)O | C11H16BNO4
reactant | sodium carbonate | 2 M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.6 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | 4-[2-(tert-butoxycarbonylamino)benzyl]phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=CC1)CC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O | C22H25NO6
